US05149717
b) 3-(4-trifluoroacetyl-3-hydroxyphenoxy)-propyl-triphenylphosphonium bromide
The title compound is prepared analogously to Example 1c) from 3-(4-trifluoroacetyl-3-hydroxyphenoxy)-propyl bromide and triphenylphosphine; m.p. 125°-130° C.

reactant | 3-(4-trifluoroacetyl-3-hydroxyphenoxy)-propyl bromide | FC(C(=O)C1=C(C=C(OCCCBr)C=C1)O)(F)F | C11H10BrF3O3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-(4-trifluoroacetyl-3-hydroxyphenoxy)-propyl-triphenylphosphonium bromide | [Br-].FC(C(=O)C1=C(C=C(OCCC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)O)(F)F | InChI=1S/C29H24F3O3P.BrH/c30-29(31,32)28(34)26-18-17-22(21-27(26)33)35-19-10-20-36(23-11-4-1-5-12-23,24-13-6-2-7-14-24)25-15-8-3-9-16-25;/h1-9,11-18,21H,10,19-20H2;1H
